2151-09-02 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2151-9-1**] 07:03 PM
 ARTERIAL LINE - START [**2151-9-1**] 10:00 PM
 EKG - At [**2151-9-2**] 12:32 AM
   -Patient remained bradycardic and hypotensive on the floor.
   Norepinephrine and phenylephrine were started at maximum doses with
   little improvement in MAP. Glucagon was given with marked improvement
   in pressures, drip started.
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-1**] 06:57 PM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-1**] 11:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-2**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 53 (49 - 81) bpm
   BP: 94/43(61) {59/29(40) - 115/50(73)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 75%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
    CVP: 19 (13 - 27)mmHg
   Total In:
                                                                  1,944 mL
                                                                  1,383 mL
   PO:
   TF:
   IVF:
                                                                  1,944 mL
                                                                  1,383 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                      0 mL
   Urine:
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,864 mL
                                                                  1,387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 75%
   ABG: 7.20/42/132/16/-10
   Physical Examination
   GEN NAD, thin appearing female
   HEENT MMM anicteric pale conjunctiva
   CV  RRR S1S2  2/6 systolic LLSB murmur, nonradiating
   PULM expiratory wheezes, crackles at bases
   ABDsoft NT, ND +bs throughout, no masses
   EXT WWP 2+dp pulses, no cyanosis
   NEURO A&O x3
   Labs / Radiology
   CT ab/pel:
   Limited in absence of PO or IV contrast. Large presacral pelvic mass
   eroding
   the sacrum. Unable to assess relationship to the bowel in absence of
   any
   contrast. If patient is able to remain still, MR may potentially help
   delineate the involvement of the bowel with tumor.
   No free air or fluid in the abdomen.
   167 K/uL
   10.4 g/dL
   331 mg/dL
   3.9 mg/dL
   16 mEq/L
   4.9 mEq/L
   121 mg/dL
   104 mEq/L
   129 mEq/L
   31.5 %
   36.0 K/uL
        [image002.jpg]
                             [**2151-9-1**]  10:01 PM
                             [**2151-9-1**]  10:06 PM
                             [**2151-9-1**]  10:35 PM
                             [**2151-9-2**]  12:30 AM
                             [**2151-9-2**]  03:46 AM
                             [**2151-9-2**]  04:24 AM
   WBC
   35.1
   36.0
   Hct
   30.3
   32
   31.5
   Plt
   195
   167
   Cr
   4.1
   3.9
   3.9
   TropT
   0.05
   TCO2
   14
   17
   Glucose
   150
   240
   331
   Other labs: CK / CKMB / Troponin-T:384/17/0.05, Lactic Acid:1.2 mmol/L,
   Ca++:6.9 mg/dL, Mg++:1.6 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   67 yo W with PMH of Stage III NSCLC and metastatic cervical cancer here
   with shock, diarrhea, and acute renal failure.
   Hypovolemic vs Septic shock: On presentation patient with hx of profuse
   diarrhea and grossly positive UA. In ED, BP not responsive to IVF, 2U
   PRBC arguing against hypovolemia as sole cause of hypotension, although
   it certainly may play a role. She has remained afebrile, but rising
   WBC, hypotension which speaks to septic shock, however clinically this
   does not appear to be the case as she seems very comfortable on exam.
   Lastly, cardiogenic shock needs to be considered given hypotension, low
   voltage EKG and cool extremities on presentation. She was on max dose
   levophed and phenylephrine with MAPS of 55-60. Given response to
   glucagon, her hypotension/bradycardia was partly due to atenolol
   however this is not the complete picture. Unlikely to be obstructive
   (ie PE) but not tachycardic, no evidence of R heart strain on EKG and
   satting well on RA. No chest pain and friction rub on exam.
   - Can decrease IVF as maintaining goal CVP of 12
   - Continue levophed for MAP >60, stop glucagon drip
   - f/u blood, stool cultures
   -? Need for antibiotics today as pt has no diarrhea and is afebrile
   - Transfuse for hct< 27
   - ECHO in AM to r/o PE
   .
   Diarrhea: Acute worsening of chronic diarrhea. History of C. diff
   requiring PO flagyl though no recent antibiotics to support this
   diagnosis. Patient also noted that she is allergic to flagyl, which
   gives her diarrhea. Unclear whether this is truly infectious vs.
   radiation colitis given recently completed treatment. Lastly,
   malignancy may be progressing and involving her bowel, causing
   worsening diarrhea.
   - send stool Cx, O&P, Cdiff
   -consider PO vancomycin if pt cannot tolerate flagyl, otherwise would
   d/c antibiotics unless cx positive
   - No lomitil until ruled out for c diff
   -if possible repeat imaging w/contrast
   .
   Leukocytosis: Chronically elevated WBC count over last several weeks,
   with increase since admission, no bands. Difficult to determine if this
   is secondary to infection or malignancy. CT abd/pelvis did not show
   evidence of inflammation/abscess however it also did not have any
   contrast which limits ability to evaluate. UA with >50WBCs concerning
   for UTI/urosepsis.
   -monitor fever curve and wbc count
   - continue ceftriaxone for UTI/urosepsis, can consider d/c flagyl at
   this time
   Acute Renal Failure: Baseline creatinine 1.5-2 since [**6-15**], likely
   chronic insults secondary to HTN and DM. Now with ARF in setting of
   hypotension. Pre-renal vs. ATN. Urine lytes, FeNa 0.6% support
   pre-renal etiology likely [**1-9**] fluid losses. Low bicarbonate treated
   with D5W and 150 NaHCO3, which is likely reason for hyponatremia this
   morning. This metabolic acidosis is likely d/t GI losses. Would switch
   to IV NS today.
   -IVF boluses as above
   - monitor BUN/CR and lytes
   - maintain MAP >60
   Anion gap acidosis: Likely secondary to elevated lactate as well as
   renal failure. Also with probable non gap component secondary to
   diarrhea and saline administration
   - IVFs with bicarb
   - recheck lactate
   - monitor chem panel
   .
   Cervical Cancer/NSCLC: currently with known sacral mets. Will contact
   oncology to see if they have any recommendations. Also attempt to
   repeat CT with imaging if patient is stable.
   -          onc recs
   -          CT repeat if stable
   .
   DM: hyperglycemia is secondary to glucagon which is ok to stop now.
   Adjust SSI as needed.
   - FS QID
   - ISS
   .
   HTN: holding meds while on pressors
   .
   FEN: NPO for now, replete lytes, IV NS for fluids
   .
   Access: RIJ, L art line
   .
   Contact: [**Name (NI) 50**] [**Name (NI) 1049**]
   .
   CODE: DNR/DNI
   Dispo: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-03 07:33:00 Physician Resident Progress Note
Chief Complaint: 67 year old female with PMHx of stage III NSCLC and
   metastatic cervical cancer here with shock, diarrhea and acute renal
   failure.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2151-9-2**] 08:30 AM
 EKG - At [**2151-9-2**] 09:30 AM
   Echo IMPRESSION: Normal left ventricular size and function. Right
   ventricle is dilated, mildly hypokinetic, and has elevated estimated
   pulmonary artery pressure. Moderate to severe tricuspid regurgitation.
   Recalculated FeNa again yesterday now 2.3. repeat UA was cloudy and
   dirty. SvO2 yesterday 78. Patient appears to be mentating better than
   previous. still on 2 pressors but AAO x3. patient states that she is
   working more to breath this morning. Sats are not as good as they have
   been.
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-1**] 06:57 PM
   Ceftriaxone - [**2151-9-2**] 04:18 PM
   Metronidazole - [**2151-9-2**] 08:00 PM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-2**] 10:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2151-9-3**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 56 (45 - 59) bpm
   BP: 101/38(59) {89/36(54) - 131/54(80)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 87%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
    CVP: 24 (7 - 24)mmHg
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  3,382 mL
                                                                    570 mL
   PO:
   TF:
   IVF:
                                                                  3,382 mL
                                                                    570 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    240 mL
   Urine:
                                                                    695 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: 7.29/35/95.[**Numeric Identifier 252**]/17/-8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   10.1 g/dL
   177 mg/dL
   4.2 mg/dL
   17 mEq/L
   4.5 mEq/L
   115 mg/dL
   95 mEq/L
   127 mEq/L
   30.0 %
   30.2 K/uL
        [image002.jpg]
                             [**2151-9-1**]  10:01 PM
                             [**2151-9-1**]  10:06 PM
                             [**2151-9-1**]  10:35 PM
                             [**2151-9-2**]  12:30 AM
                             [**2151-9-2**]  03:46 AM
                             [**2151-9-2**]  04:24 AM
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
   WBC
   35.1
   36.0
   30.2
   Hct
   30.3
   32
   31.5
   30.0
   Plt
   195
   167
   132
   Cr
   4.1
   3.9
   3.9
   4.1
   4.2
   TropT
   0.05
   TCO2
   14
   17
   19
   18
   Glucose
   150
   240
   331
   175
   177
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB /
   Troponin-T:384/17/0.05, Differential-Neuts:92.0 %, Band:6.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:615
   IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:6.0 mg/dL
   CT scan without contrast
   1. Relatively stable appearance of the large presacral soft tissue mass
   with
   destruction of the left sacrum. The involvement of the colon with the
   tumor
   is impossible to assess in absence of oral or IV contrast.
   2. Interval increase in size and number of multiple pulmonary nodules,
   consistent with worsening of metastatic disease.
   Chest x-ray this morning: no official read however appears definitely
   volume up with increasing pulmonary vascular congestion and obscuration
   of right costophrenic angle.
   Assessment and Plan
   67 yo W with PMH of Stage III NSCLC and metastatic cervical cancer here
   with shock, diarrhea, and acute renal failure.
   Hypovolemic vs Septic shock: On presentation patient with hx of profuse
   diarrhea, although of note, now patient currently denies having any
   diarrhea at home, and grossly positive UA. In ED, BP not responsive to
   IVF, 2U PRBC arguing against hypovolemia as sole cause of hypotension,
   although it certainly may play a role. She has remained afebrile, but
   rising WBC, hypotension which speaks to septic shock, however
   clinically this does not appear to be the case as she seems very
   comfortable on exam. Lastly, cardiogenic shock needs to be considered
   given hypotension, low voltage EKG. She was on max dose levophed and
   phenylephrine with MAPS of 55-60. Given yesterday
s echo findings which
   demonstrate a dilated right ventricle that is hypokinetic with elevated
   pulmonary artery pressures and persistent hypotension would consider PE
   high on the differential. Also on the differential diagnosis is right
   heart infarct with RV hypokinesis especially in the setting of what
   appears to be bradycardia.  Also now with evidence of fluid overload on
   exam.
   - wean phenylephrine off, in terms of choosing pressors would likely
   pick dopamine for chronotropic as well as ionotropic effects if unable
   to wean off current pressors right now
   - cultures are still all pending
 cont ceftriaxone, flagyl for now
   (flagyl with history of c. diff) ceftriaxone for dirty UA
   - V/Q to look for evidence of PE given that cannot get CTA given renal
   failure
   - if V/Q scan positive, would get head CT prior to initiation of
   anti-coagulation in the setting of metastatic disease and no recent
   head imaging (again would have to be non-constrast)
   - consider right heart EKG to look for evidence of right heart ischemia
   - send stool culture
   - send sputum culture
   - consider repeat UA/ucx
   .
   .
   Leukocytosis: Chronically elevated WBC count over last several weeks,
   with increase since admission, no bands. Difficult to determine if this
   is secondary to infection or malignancy. CT abd/pelvis did not show
   evidence of inflammation/abscess however it also did not have any
   contrast which limits ability to evaluate. UA with >50WBCs concerning
   for UTI/urosepsis.
   -monitor fever curve and wbc count
   - continue ceftriaxone for UTI/urosepsis, can consider d/c flagyl at
   this time
   Acute Renal Failure: Baseline creatinine 1.5-2 since [**6-15**], likely
   chronic insults secondary to HTN and DM. Now with ARF in setting of
   hypotension. FeNa initially 0.6% support pre-renal etiology likely [**1-9**]
   fluid losses however repeat FeNa is 2.3 % which suggests component of
   ATN. Low bicarbonate initially treated with D5W and 150 NaHCO3, which
   may be contributing to hyponatreamia.
   Hyponatremia: Suspect that hypervolemic hyponatremia. Got 20 IV lasix
   today. Will hold off on additional fluids at this time. Will check
   urine osm, urine lytes and serum osms
   - fluid restriction as needed
   - will continue to follow-lytes
   Anion gap acidosis: Likely secondary to elevated lactate as well as
   renal failure. Also with probable non gap component secondary to
   diarrhea and saline administration
   - recheck lactate
   - monitor chem panel
   .
   Cervical Cancer/NSCLC: currently with known sacral mets. Will contact
   oncology to see if they have any recommendations. Also attempt to
   repeat CT with imaging if patient is stable.
    - onc recs
   - CT repeat as above
   .
   Diabetes:
   - FS QID
   - ISS
   .
   HTN: holding meds while on pressors
   .
   FEN: restart diet, replete lytes, hold off on additional fluids
   .
   Access: RIJ, L art line
   .
   Contact: [**Name (NI) 50**] [**Name (NI) 1049**]
   .
   CODE: DNR/DNI
   Dispo: ICU care for now until off all pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-03 09:16:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2151-9-2**] 08:30 AM
 EKG - At [**2151-9-2**] 09:30 AM
   Patient with improved alterness and responsiveness
   Pressors required for continued support of blood pressure
   TTE--Nl LV size and function with dilated hypokinetic RV and mod/seve
   TR
   CVO2=78
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-1**] 06:57 PM
   Ceftriaxone - [**2151-9-2**] 04:18 PM
   Metronidazole - [**2151-9-2**] 08:00 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-2**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2151-9-3**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 56 (45 - 59) bpm
   BP: 101/38(59) {89/36(54) - 131/54(80)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 87%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
   CVP: 24 (7 - 24)mmHg
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  3,382 mL
                                                                    626 mL
   PO:
   TF:
   IVF:
                                                                  3,382 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    350 mL
   Urine:
                                                                    695 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: 7.30/37/70/17/-7
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bilaterally, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   132 K/uL
   177 mg/dL
   4.2 mg/dL
   17 mEq/L
   4.5 mEq/L
   115 mg/dL
   95 mEq/L
   127 mEq/L
   30.0 %
   30.2 K/uL
        [image002.jpg]
                             [**2151-9-1**]  10:06 PM
                             [**2151-9-1**]  10:35 PM
                             [**2151-9-2**]  12:30 AM
                             [**2151-9-2**]  03:46 AM
                             [**2151-9-2**]  04:24 AM
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
                             [**2151-9-3**]  08:29 AM
   WBC
   36.0
   30.2
   Hct
   32
   31.5
   30.0
   Plt
   167
   132
   Cr
   4.1
   3.9
   3.9
   4.1
   4.2
   TropT
   0.05
   TCO2
   14
   17
   19
   18
   19
   Glucose
   150
   240
   331
   175
   177
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB /
   Troponin-T:384/17/0.05, Differential-Neuts:92.0 %, Band:6.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:615
   IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:6.0 mg/dL
   Fluid analysis / Other labs: 7.29/35/95
   7.30/37/70/19 on 4 liters NC
   Imaging: CXR--increased right sided pulmonary parenchymal opacities and
   suggestion of small right sided effusion.
   Assessment and Plan
   67 yo female admit with hypotension and bradycardia now with findings
   on ECHO to suggest significant impairment in RV function and
   significant increase in pulmonary artery pressures noted (mod PAH and
   TR).  This in in the setting of persistent bradycardia suggesting
   possible RV vascular distribution ischemia.  In addition the elevations
   in pulmonary artery pressure remain to be defined in regards to
   source.  Finally--she retains a significant bandemia in the setting of
   elevated WBC count.
   The source of persistent hypotension seems in large part to be driven
   by cardiac compromise (high BNP, ECHO findings) in the setting of
   persistent bradycardia
perhaps increased RV afterload and difficulty
   with maintenance of effective CO with increased demand in the setting
   of likely systemic infection with possible urinary source as evidenced
   by the elevated WBC count and bandemia.  GI source with diarrhea
   suspected but diarrhea not clearly confirmed.  The current source of
   the elevated PA pressures in the setting of preserved LV function
   remains to be defined.
   1)Shock-
   Vasodilatory Component-
   -CTX/Flagyl for possible bacterial infection and C. Diff
   -Neosynephrine/Levophed continue and hope to wean
   -Cultures pending
   Cardiogenic Component-
   -Possible PE raised as source of obstruction, may be tumor embolus as
   well
would like to treat for possible PE and favor treatment if we can
   find reassurance that bleeding risk is reasonable and head CT negative
   for CNS lesion/mass and study for PE is positive
   -Bradycardia persistent, BNP is up, do not see evidence of acute MI on
   findings thus far
mild elevations in enzymes have decreased and may be
   evidence of remote insult or current area at risk
   -Favor change to IV Beta specific agonists for support
with Dopamine
   representing reasonable compromise as with fixed and impaired RV stroke
   volume and peripheral beta effects Dobutamine represents a second
   choice.
   -LV function is preserved
   Hypovolemia-
   -Has been resolved with UVF to the point of likely volume overload
   2)Bradycardia-
   -Telemetry
   -Consider inotrope and chronotrope support for pressors
   -Will look to RV leads to help assure no ongoing insult in the setting
   of stable enzymes
   3)Acute Renal Failure-
   -Likley ATN
   -Continue support of BP
   FeNa=low and poor perfusion but now evolving a process consistent with
   ATN
   ICU Care
   Nutrition: Po diet of clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   ------ Protected Section ------
   Patient is DNR/DNI
Full code status entered in error above
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-9-3**] 17:10 ------

2151-09-04 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2151-9-3**] 11:30 AM
   v Q scan
 ULTRASOUND - At [**2151-9-3**] 03:00 PM
   renal ultra snd
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-1**] 06:57 PM
   Ceftriaxone - [**2151-9-3**] 05:48 PM
   Metronidazole - [**2151-9-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-9-3**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2151-9-3**] 05:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-4**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 56 (51 - 62) bpm
   BP: 104/39(59) {87/29(47) - 141/70(91)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 10 (5 - 27)mmHg
   Total In:
                                                                  1,215 mL
                                                                    215 mL
   PO:
   TF:
   IVF:
                                                                  1,215 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    345 mL
   Urine:
                                                                  1,930 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -715 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.30/37/70/16/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   9.0 g/dL
   77 mg/dL
   4.1 mg/dL
   16 mEq/L
   4.0 mEq/L
   122 mg/dL
   101 mEq/L
   133 mEq/L
   27.2 %
   18.8 K/uL
        [image002.jpg]
                             [**2151-9-2**]  12:30 AM
                             [**2151-9-2**]  03:46 AM
                             [**2151-9-2**]  04:24 AM
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
                             [**2151-9-3**]  08:29 AM
                             [**2151-9-3**]  04:07 PM
                             [**2151-9-4**]  04:15 AM
   WBC
   36.0
   30.2
   18.8
   Hct
   31.5
   30.0
   27.2
   Plt
   167
   132
   Cr
   3.9
   3.9
   4.1
   4.2
   4.1
   4.1
   TropT
   0.05
   0.05
   TCO2
   17
   19
   18
   19
   Glucose
   [**Telephone/Fax (3) 1153**]77
   129
   77
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB / Troponin-T:77/9/0.05,
   Differential-Neuts:92.0 %, Band:6.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, LDH:615 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   67 yo W with PMH of Stage III NSCLC and metastatic cervical cancer here
   with shock, diarrhea, and acute renal failure.
   Hypovolemic vs Septic shock: On presentation patient with hx of profuse
   diarrhea, although of note, now patient currently denies having any
   diarrhea at home, and grossly positive UA. In ED, BP not responsive to
   IVF, 2U PRBC arguing against hypovolemia as sole cause of hypotension,
   although it certainly may play a role. She has remained afebrile, but
   rising WBC, hypotension which speaks to septic shock, however
   clinically this does not appear to be the case as she seems very
   comfortable on exam. Lastly, cardiogenic shock needs to be considered
   given hypotension, low voltage EKG. She was on max dose levophed and
   phenylephrine with MAPS of 55-60. Given yesterday
s echo findings which
   demonstrate a dilated right ventricle that is hypokinetic with elevated
   pulmonary artery pressures and persistent hypotension would consider PE
   high on the differential. Also on the differential diagnosis is right
   heart infarct with RV hypokinesis especially in the setting of what
   appears to be bradycardia.  Also now with evidence of fluid overload on
   exam.
   - wean phenylephrine off, in terms of choosing pressors would likely
   pick dopamine for chronotropic as well as ionotropic effects if unable
   to wean off current pressors right now
   - cultures are still all pending
 cont ceftriaxone, flagyl for now
   (flagyl with history of c. diff) ceftriaxone for dirty UA
   - V/Q to look for evidence of PE given that cannot get CTA given renal
   failure
   - if V/Q scan positive, would get head CT prior to initiation of
   anti-coagulation in the setting of metastatic disease and no recent
   head imaging (again would have to be non-constrast)
   - consider right heart EKG to look for evidence of right heart ischemia
   - send stool culture
   - send sputum culture
   - consider repeat UA/ucx
   .
   .
   Leukocytosis: Chronically elevated WBC count over last several weeks,
   with increase since admission, no bands. Difficult to determine if this
   is secondary to infection or malignancy. CT abd/pelvis did not show
   evidence of inflammation/abscess however it also did not have any
   contrast which limits ability to evaluate. UA with >50WBCs concerning
   for UTI/urosepsis.
   -monitor fever curve and wbc count
   - continue ceftriaxone for UTI/urosepsis, can consider d/c flagyl at
   this time
   Acute Renal Failure: Baseline creatinine 1.5-2 since [**6-15**], likely
   chronic insults secondary to HTN and DM. Now with ARF in setting of
   hypotension. FeNa initially 0.6% support pre-renal etiology likely [**1-9**]
   fluid losses however repeat FeNa is 2.3 % which suggests component of
   ATN. Low bicarbonate initially treated with D5W and 150 NaHCO3, which
   may be contributing to hyponatreamia.
   Hyponatremia: Suspect that hypervolemic hyponatremia. Got 20 IV lasix
   today. Will hold off on additional fluids at this time. Will check
   urine osm, urine lytes and serum osms
   - fluid restriction as needed
   - will continue to follow-lytes
   Anion gap acidosis: Likely secondary to elevated lactate as well as
   renal failure. Also with probable non gap component secondary to
   diarrhea and saline administration
   - recheck lactate
   - monitor chem panel
   .
   Cervical Cancer/NSCLC: currently with known sacral mets. Will contact
   oncology to see if they have any recommendations. Also attempt to
   repeat CT with imaging if patient is stable.
    - onc recs
   - CT repeat as above
   .
   Diabetes:
   - FS QID
   - ISS
   .
   HTN: holding meds while on pressors
   .
   FEN: restart diet, replete lytes, hold off on additional fluids
   .
   Access: RIJ, L art line
   .
   Contact: [**Name (NI) 50**] [**Name (NI) 1049**]
   .
   CODE: DNR/DNI
   Dispo: ICU care for now until off all pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-04 12:43:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year old female with hx stg 3 NSCLCa, cervical CA
   Admitted with shock, worsening diarrhea, ARF
   Since [**Hospital Unit Name 4**] has received off/on Flagyl, pressors now off, fluid
   resuscitation. Has been evaluated with Echo, V/Q scan, [**Last Name (un) **] stem test
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2151-9-3**] 11:30 AM
   V/Q scan low probability for PE
 ULTRASOUND - At [**2151-9-3**] 03:00 PM
   hydronephrosis- left
   Drop in BP while sleeping this morning responsive to a liter fluid
   resucitation
   History obtained from [**Hospital 19**] Medical records, MICU housestaff
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-1**] 06:57 PM
   Ceftriaxone - [**2151-9-3**] 05:48 PM
   Metronidazole - [**2151-9-4**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-3**] 05:49 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-4**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 56 (51 - 62) bpm
   BP: 122/49(75) {35/29(43) - 129/59(83)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
   CVP: 9 (4 - 16)mmHg
   Total In:
                                                                  1,215 mL
                                                                    873 mL
   PO:
   TF:
   IVF:
                                                                  1,215 mL
                                                                    873 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    725 mL
   Urine:
                                                                  1,930 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -715 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), No(t) S3, No(t) S4, No(t) Rub,
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : scattered end exp, No(t) Diminished: , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   80 K/uL
   77 mg/dL
   4.1 mg/dL
   16 mEq/L
   4.0 mEq/L
   122 mg/dL
   101 mEq/L
   133 mEq/L
   27.2 %
   18.8 K/uL
        [image002.jpg]
                             [**2151-9-2**]  12:30 AM
                             [**2151-9-2**]  03:46 AM
                             [**2151-9-2**]  04:24 AM
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
                             [**2151-9-3**]  08:29 AM
                             [**2151-9-3**]  04:07 PM
                             [**2151-9-4**]  04:15 AM
   WBC
   36.0
   30.2
   18.8
   Hct
   31.5
   30.0
   27.2
   Plt
   167
   132
   80
   Cr
   3.9
   3.9
   4.1
   4.2
   4.1
   4.1
   TropT
   0.05
   0.05
   TCO2
   17
   19
   18
   19
   Glucose
   [**Telephone/Fax (3) 1153**]77
   129
   77
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB / Troponin-T:77/9/0.05,
   Differential-Neuts:92.0 %, Band:6.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, LDH:615 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   Microbiology: UrCx: Ecoli pan sensitive
   Assessment and Plan
   67 year old female admitted with hypotension in the context of
   diarrhea, mostly improved though still requiring recent fluid
   resuscitation.
   Suspect combination of hypovolemic and septic shock with urine cultures
   now growing E.coli
   1. Hypotension: no longer on pressors
        Add maintenance fluids given limited po intake and watch BP.
       Continue abx for Ecoli UTI.
      d/c flagyl as diarrhea improved independent of its initiation
      f/u blood cultures
   2. ARF: Cr still  increasing
     renal US with hydronephrosis: urology consulted though unclear that
   this explains renal decline completely
     Obtain renal consult
   3. Decreased plt count: nearly 50% reduction but all numbers down- will
   recheck CBC
   4. Cerv CA/ NSCLCa: no active intervention today
   5. Other plans per housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2151-09-05 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -d/c flagyl
   -Renal consult: muddy brown casts in urine, indicative of ATN. Would
   check LDH, schistocytes, FeNa, and repeat renal US on Monday.
   -Urology consult: ? stent for L sided hydro
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Metronidazole - [**2151-9-4**] 10:00 AM
   Ceftriaxone - [**2151-9-4**] 06:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-4**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-5**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.5
   HR: 54 (53 - 62) bpm
   BP: 97/42(61) {35/28(41) - 125/56(81)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
    CVP: 13 (9 - 13)mmHg
   Total In:
                                                                  1,755 mL
                                                                    675 mL
   PO:
   TF:
   IVF:
                                                                  1,755 mL
                                                                    675 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    570 mL
   Urine:
                                                                  1,420 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   8.3 g/dL
   73 mg/dL
   4.0 mg/dL
   16 mEq/L
   4.1 mEq/L
   117 mg/dL
   106 mEq/L
   135 mEq/L
   25.6 %
   19.0 K/uL
        [image002.jpg]
                             [**2151-9-2**]  04:24 AM
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
                             [**2151-9-3**]  08:29 AM
                             [**2151-9-3**]  04:07 PM
                             [**2151-9-4**]  04:15 AM
                             [**2151-9-4**]  12:46 PM
                             [**2151-9-5**]  04:25 AM
   WBC
   30.2
   18.8
   19.0
   19.0
   Hct
   30.0
   27.2
   27.4
   25.6
   Plt
   132
   80
   69
   68
   Cr
   4.1
   4.2
   4.1
   4.1
   4.0
   TropT
   0.05
   0.05
   TCO2
   17
   19
   18
   19
   Glucose
   175
   177
   129
   77
   73
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB / Troponin-T:77/9/0.05,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:1.8 %, Mono:2.0 %, Eos:3.2
   %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   67 yo W with PMH of Stage III NSCLC and metastatic cervical cancer here
   with shock, diarrhea, and acute renal failure.
   Hypovolemic vs Septic shock: On presentation diarrhea was thought to be
   the etiology of her hypotension but the patient has not had any BMs
   since admission. Her other cultures are pending, with urine growing
   E.coli pan-sensitive to current abx. She has remained afebrile, with
   rising WBC, hypotension which speaks to septic shock, however
   clinically this does not appear to be the case as she seems very
   comfortable on exam. Lastly, cardiogenic shock needs to be considered
   given hypotension, low voltage EKG. She was on max dose levophed and
   phenylephrine with MAPS of 55-60. Given yesterday
s echo findings which
   demonstrate a dilated right ventricle that is hypokinetic with elevated
   pulmonary artery pressures and persistent hypotension would consider
   PE, however V/Q scan showed low probablility. Also on the differential
   diagnosis is right heart infarct with RV hypokinesis especially in the
   setting of what appears to be bradycardia.  Patient is now off pressors
   but still maintaining a low MAP while sleeping.
   - fluid bolus for low UOP, low MAP
   - cont ceftriaxone for E.coli UTI
   -d/c flagyl as unlikely c.diff
   - f/u pending cultures
   - off pressors now but may need to restart if not fluid responsive
   .
   Leukocytosis: Chronically elevated WBC count over last several weeks,
   with increase since admission, no bands. CT abd/pelvis did not show
   evidence of inflammation/abscess however it also did not have any
   contrast which limits ability to evaluate. Urine ctx with E.coli which
   may have caused sepsis? Blood cultures still pending.  Also CBC today
   with decreased plt, WBC and hematocrit.  [**Month (only) 8**] be drug related (ie. HIT-
   thrombocytopenia).
   -monitor fever curve and wbc count
   - continue ceftriaxone for UTI
   -repeat CBC
   -if hct is decreased consider guaiac stools
   Acute Renal Failure: Baseline creatinine 1.5-2 since [**6-15**], likely
   chronic insults secondary to HTN and DM. It is likely this put her at
   risk for further renal damage. Her initial FeNa 0.6% which supported
   pre-renal etiology; on repeat FeNa is 2.3 % which suggests component of
   ATN. Low bicarbonate initially treated with D5W and 150 NaHCO3, which
   may be contributing to hyponatreamia.
   -consult renal
   -continue IVF and trend Cr
   -avoid nephrotoxic agents
   -Monday ask lab to spin urine
   Hyponatremia: Suspect hypovolemic hyponatremia despite high CVP (pt has
   TR which can falsely elevate CVP measurements). Will continue to
   support with maintenance fluids IV NS and bolus as needed. [**Month (only) 8**] need to
   give NaHCO3 as well to increase bicarb while ATN resolves.
   -IV NS, caution not to overload
   - follow electrolytes
   Anion gap acidosis: Likely secondary to elevated lactate as well as
   renal failure. Also with probable non gap component secondary to
   diarrhea and saline administration
   - recheck lactate
   - monitor chem panel
   .
   Cervical Cancer/NSCLC: currently with known sacral mets. Will contact
   oncology to see if they have any recommendations. Also attempt to
   repeat CT with imaging if patient is stable.
    - onc recs
   - CT repeat as above
   .
   Diabetes:
   - FS QID
   - ISS
   .
   HTN: holding meds while on pressors
   .
   FEN: restart diet, replete lytes, IV NS with bicarb as needed
   .
   Access: RIJ, L art line
   .
   Contact: [**Name (NI) 50**] [**Name (NI) 1049**]
   .
   CODE: DNR/DNI
   Dispo: ICU care for now until BP stabilizes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-05 12:20:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   flagyl dc'd
   Renal consult: u/a +ATN
     Rec repeat US
   Received fluid resuscitation twice for hypotension overnight
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Metronidazole - [**2151-9-4**] 10:00 AM
   Ceftriaxone - [**2151-9-4**] 06:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-4**] 10:09 PM
   Other medications:
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-5**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.5
   HR: 66 (53 - 66) bpm
   BP: 116/46(70) {72/28(41) - 128/56(84)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 13 (9 - 13)mmHg
   Total In:
                                                                  1,755 mL
                                                                    724 mL
   PO:
   TF:
   IVF:
                                                                  1,755 mL
                                                                    724 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    900 mL
   Urine:
                                                                  1,420 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: right base)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   68 K/uL
   73 mg/dL
   4.0 mg/dL
   16 mEq/L
   4.1 mEq/L
   117 mg/dL
   106 mEq/L
   135 mEq/L
   25.6 %
   19.0 K/uL
        [image002.jpg]
                             [**2151-9-2**]  04:24 AM
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
                             [**2151-9-3**]  08:29 AM
                             [**2151-9-3**]  04:07 PM
                             [**2151-9-4**]  04:15 AM
                             [**2151-9-4**]  12:46 PM
                             [**2151-9-5**]  04:25 AM
   WBC
   30.2
   18.8
   19.0
   19.0
   Hct
   30.0
   27.2
   27.4
   25.6
   Plt
   132
   80
   69
   68
   Cr
   4.1
   4.2
   4.1
   4.1
   4.0
   TropT
   0.05
   0.05
   TCO2
   17
   19
   18
   19
   Glucose
   175
   177
   129
   77
   73
   Other labs: PT / PTT / INR:17.3//1.6, CK / CKMB / Troponin-T:77/9/0.05,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:1.8 %, Mono:2.0 %, Eos:3.2
   %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:5.9 mg/dL
   Imaging: CXR: right pleural effusion, vasculature more prominent
   Assessment and Plan
   67 year old female with stg 3 NSCLCa, cervical Ca, initially presenting
   with worsening diarrhea, E.Coli UTI and admitted for hypotension. She
   is no longer on pressors but continues to require intermittent fluid
   resuscitation to maintain MAP>60's. She is on appropriate abx for
   E.coli UTI, and so far, her hypotension workup has included Echo, V/Q
   (low prob), random cortisol level which have not identified another
   reason for the shock.
   MAP
s continue to intermittently drop though mostly overnight and
   improved after awakening
   -continue fluid bolus as needed- CVP
s may be artificially elevated
   because of TR
   -check orthostatis/eval autonomic function
   ARF: W/u includes ATN, may have post-obstructive component.
   Renal/Urology following
   Plan repeat US
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-09-06 07:08:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   No acute events overnight
   Allergies:
   Zocor (Oral) (Simvastatin)
   myalgias;
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Metronidazole - [**2151-9-4**] 10:00 AM
   Ceftriaxone - [**2151-9-5**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-6**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 61 (58 - 70) bpm
   BP: 108/35(62) {98/35(56) - 160/71(105)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 43 (13 - 355)mmHg
   Total In:
                                                                  1,835 mL
                                                                     70 mL
   PO:
                                                                    940 mL
   TF:
   IVF:
                                                                    895 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    600 mL
   Urine:
                                                                  1,670 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   GEN: NAD
   CV: Nl S1+S2, no m/r/g
   PULM: bibasilar rales
   ABD: soft tympanitic, nontender nondistended +bs
   EXT: WWP 2+dp pulses, No c/c/e
   SKIN: no rashes
   NEURO: AAOx3
   Labs / Radiology
   80 K/uL
   9.0 g/dL
   121 mg/dL
   3.8 mg/dL
   17 mEq/L
   5.0 mEq/L
   110 mg/dL
   105 mEq/L
   135 mEq/L
   26.8 %
   26.3 K/uL
        [image002.jpg]
                             [**2151-9-2**]  08:50 AM
                             [**2151-9-2**]  04:26 PM
                             [**2151-9-2**]  04:36 PM
                             [**2151-9-3**]  04:23 AM
                             [**2151-9-3**]  08:29 AM
                             [**2151-9-3**]  04:07 PM
                             [**2151-9-4**]  04:15 AM
                             [**2151-9-4**]  12:46 PM
                             [**2151-9-5**]  04:25 AM
                             [**2151-9-6**]  04:40 AM
   WBC
   30.2
   18.8
   19.0
   19.0
   26.3
   Hct
   30.0
   27.2
   27.4
   25.6
   26.8
   Plt
   132
   80
   69
   68
   80
   Cr
   4.1
   4.2
   4.1
   4.1
   4.0
   3.8
   TropT
   0.05
   0.05
   TCO2
   19
   18
   19
   Glucose
   175
   177
   129
   77
   73
   121
   Other labs: PT / PTT / INR:17.7/44.7/1.6, CK / CKMB /
   Troponin-T:77/9/0.05, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.0 %, Eos:3.2 %, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:282 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   67 yo W with PMH of Stage III NSCLC and metastatic cervical cancer here
   with shock, diarrhea, and acute renal failure.
   # Hypotention: Unclear etiology to hypotensive episode requiring
   pressor support.  Sepsis unlikely with negative cultures and no fever.
   Cardiogenic, obstructive, distributive shock are also either not
   consistent with exam or have been ruled out.  Patient is now off
   pressor support.
   - IVF for decreased UOP or MAP<60.
   - f/u cultures
   # Leukocytosis: Patient with leukocytosis this AM to 26.3 from 19
   yesterday. Uncertain etiology at this time. Patient has been afebrile.
   Being treated for UTI. Patient also has had a leukocytosis since
   [**Month (only) **].
   - Monitor fever curve
   - Continue ceftriaxone
   - f/u cultures
   # UTI: Patient with urine culture speciated as E.coli pansensitive.
   Repeat urine cultures negative.
   - continue ceftriaxone
   # ARF: Baseline creatinine of 1.5-2 since [**6-15**].  Renal consult has
   noted muddy brown casts consistent with ATN. Urology following  as
   patient found to have moderate left-sided hydronephrosis.
   - IVF and trend creatinine
   - Avoid nephrotoxins
   - f/u renal and urology for possible nephrostomy tube.
   # Hyponatremia: Resolved since admission with IVF.
   - Trend lytes
   # Anion gap acidosis: Resolved since admission. Likely secondary to
   lactic acidosis and renal failure
   # Cervical CA/NSCLC: Patient has known sacral mets.
   - f/u with oncology
   # DM: Orals held.
   - Cont ISS and accuchecks
   # HTN: Patient off of pressors.  Oral anti-hypertensives not restarted.
   # FEN: PO, replete as necessary, IVF
   # PPX: SCDs
   # DISPO: Call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-1**] 07:03 PM
   Arterial Line - [**2151-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Patient seen
 present for key portions of history and exam. Agree
   substantially with Dr. [**First Name (STitle) 1251**]
s assessment and plan.  She has continued to
   improve and is now alert, with HR in 50-60 range and BP has returned to
   baseline.  Creat remains elevated and with evidence of hydronephrosis
   plan is to proceed directly to nephrostomy.  Pain is relatively well
   controlled.
   Time spent: 40 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-9-6**] 17:06 ------